* C:\Users\damia\OneDrive\바탕 화면\rim2025.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N001 N004 SINE(0 1 92.3k 0 0 0)
R1 N002 N001 3
L1 N002 N003 100.04µ Rser=1m
C1 N003 N004 30.07n
R2 N003 N004 2k
.tran 0 0.5m 0 1u
.backanno
.end
